US05767285
A solution of 917 mg (4.2 mmol) of 3-(2-propenyloxy)benzoic acid, 2-propenyl ester in 9 mL of methanol/water (3:2) at room temperature is treated with 0.53 mL (5.25 mmol) of 10M sodium hydroxide solution. The solution is allowed to stir for one hour then acidified with 5 mL of 10% sodium bisulfate solution and extracted with 25 mL of ethyl acetate. The organic layer is washed with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo to give 732 mg (97%) of 3-(2-propenyloxy)benzoic acid as a white powder. The product is utilized in the next reaction without further purification; m.p. 78°-79°; the 1H NMR (300 MHz, CDCl3) is consistent with the desired product; IR (KBr) 3000, 1690, 1620, 1590 cm-1 ; MS (CI low res) m/e 179 (M+H), 161, 135; Analysis calculated for C10H10O3 : C, 67.41; H, 5.66; found: C, 67.37; H, 5.59.

reactant | 3-(2-propenyloxy)benzoic acid, 2-propenyl ester | 4.2 mmol, 917 mg | C(C=C)OC=1C=C(C(=O)OCC=C)C=CC1 | C13H14O3
reactant | sodium hydroxide | 5.25 mmol, 10M, 0.53 mL | [OH-].[Na+]
reactant | sodium bisulfate | 5 mL | S([O-])(O)(=O)=O.[Na+]
solvent | methanol water | 9 mL | CO.O
product | 3-(2-propenyloxy)benzoic acid | 732 mg, 97% | C(C=C)OC=1C=C(C(=O)O)C=CC1 | C10H10O3
